US09023865B2
Pd2(dba)3 (0.192 g, 0.209 mmol), biphenyl-2-yl(dicyclohexyl)phosphane (0.073 g, 0.209 mmol), and 6-chloro-3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridine (1.02 g, 2.094 mmol) were placed in a microwave vial under nitrogen and dissolved in THF (11 mL) The reaction mixture was degassed for 5 min, LiHMDS (2.51 mL, 2.51 mmol, 1M in THF) was added via syringe and then heated to 65° C. overnight. The mixture was cooled to RT and Pd2(dba)3 (0.096 g, 0.1 mmol), biphenyl-2-yl(dicyclohexyl)phosphane (0.036 g, 0.1 mmol) and LiHMDS (1.25 mL, 1.25 mmol, 1M in THF) were added again. The mixture was degassed for 5 min and heated to 80° C. for 3 h, cooled to RT and quenched with 1N HCl. The mixture was then concentrated and partitioned between DCM and 1N NaOH. The organic layer was extracted with DCM (3×) and the combined organic layers were dried (Na2SO4) and concentrated in vacuo. The residue was purified by chromatography on silica gel over a gradient of 0-100% EtOAc in hexanes and then over a gradient of 0-30% (1:2=MeOH:EtOAc) in DCM to yield 3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine (549 mg, 2.09 mmol, 56%) as a solid. MS ESI calc'd. for C31H26N5 [M+1]+468, found 468.

reactant | biphenyl-2-yl(dicyclohexyl)phosphane | 0.209 mmol, 0.073 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | 6-chloro-3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 2.094 mmol, 1.02 g | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C | C31H23ClN4
reactant | LiHMDS | 2.51 mmol, 1M, 2.51 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | LiHMDS | 1.25 mmol, 1M, 1.25 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | MeOH | CO | CH4O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.209 mmol, 0.192 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.1 mmol, 0.096 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | biphenyl-2-yl(dicyclohexyl)phosphane | 0.1 mmol, 0.036 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | 2.09 mmol, 549 mg, 56% | CC1=NC=CC(=C1)C1=NN(C2=C1C=NC(=C2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H25N5
